US05276025
4-Isobutyl-5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide
To a solution of 4-isobutyryl-5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3.2-f]-1,4-thiazepine-1,1-dioxide (1.009 g, 2.75 mmol) in dry tetrahydrofuran (30 mL), under an inert atmosphere was added 1M borane·THF (9 mL, 9.0 mmol) and the reaction mixture was refluxed for three hours. Concentrated HCl and water were then added to the cooled reaction mixture. After refluxing this mixture for 0.5 hours, the solvent was removed, the residue was made basic with NaHCO3 and the product was extracted into ethyl acetate. The extract was dried (Na2SO4), filtered and the solvent evaporated. Trituration of the residue with diethyl ether and n-butyl chloride gave 637 mg (65%) of crystalline product. Recrystallization of the solid from diethyl ether twice afforded analytically pure title compound (446 mg), mp 125°-127° C.

reactant | 4-isobutyryl-5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3.2-f]-1,4-thiazepine-1,1-dioxide | 2.75 mmol, 1.009 g | C(C(C)C)(=O)N1CCS(C2=C(C1C)C=C(S2)S(N)(=O)=O)(=O)=O | C12H18N2O5S3
reactant | borane·THF | 9.0 mmol, 1M, 9 mL | B.C1CCOC1
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-Isobutyl-5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide | 637 mg, 65% | C(C(C)C)N1CCS(C2=C(C1C)C=C(S2)S(N)(=O)=O)(=O)=O | C12H20N2O4S3
